US07375226B2
(a) 1-(2-Thiophen-2-yl-6,7-dihydro-4H-thiazolo[5,4-c]pyridin-5-yl)-ethanone
2.8 mmol of thiophene-2-thiocarboxamide was dissolved in 10 ml acetonitrile. 5.6 mmol of N-ethyl-diisopropylamine was added, followed by 3.4 mmol 1-acetyl-3-bromo-piperidin-4-one hydrobromide (prepared according to patent U.S. Pat No. 4,122,083). The reaction mixture was heated to 50° C. for 4 hours, cooled and concentrated. Chromatography of the residue (SiO2; ethyl acetate) yields the title compound as a yellowish gum. MS (m/e): 265.0 (M+H+).

reactant | thiophene-2-thiocarboxamide | 2.8 mmol | S1C(=CC=C1)C(N)=S | C5H5NS2
reactant | N-ethyl-diisopropylamine | 5.6 mmol | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-acetyl-3-bromo-piperidin-4-one hydrobromide | 3.4 mmol | Br.C(C)(=O)N1CC(C(CC1)=O)Br
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-(2-Thiophen-2-yl-6,7-dihydro-4H-thiazolo[5,4-c]pyridin-5-yl)-ethanone | S1C(=CC=C1)C=1SC=2CN(CCC2N1)C(C)=O | C12H12N2OS2
